US07777047B2
7-{methyl[(1-methyl-1H-imidazol-2-yl)sulfonyl]amino}-1H-indole-2-carboxylic acid
Ethyl 7-{methyl[(1-methyl-1H-imidazol-2-yl)sulfonyl]amino}-1H-indole-2-carboxylate (2.87 g) was dissolved in a mixed solvent of tetrahydrofuran (30 mL)-methanol (20 mL). Aqueous potassium hydroxide solution (prepared by dissolving potassium hydroxide (2.0 g) in water (20 mL)) was added to this solution, and the mixture was stirred at room temperature for 16 hr, and concentrated under reduced pressure to evaporate methanol. The obtained residue was acidified with aqueous citric acid solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give the title compound (2.65 g, yield: 100%) as colorless crystals. MS: 335 (MH+). melting point: 241-242° C.

reactant | Ethyl 7-{methyl[(1-methyl-1H-imidazol-2-yl)sulfonyl]amino}-1H-indole-2-carboxylate | 2.87 g | CN(C=1C=CC=C2C=C(NC12)C(=O)OCC)S(=O)(=O)C=1N(C=CN1)C | C16H18N4O4S
reactant | potassium hydroxide | 20 mL, 2.0 g | [OH-].[K+]
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | methanol | 20 mL | CO | CH4O
product | 7-{methyl[(1-methyl-1H-imidazol-2-yl)sulfonyl]amino}-1H-indole-2-carboxylic acid | 2.65 g, yield: 100% | CN(C=1C=CC=C2C=C(NC12)C(=O)O)S(=O)(=O)C=1N(C=CN1)C | C14H14N4O4S
